US05591742
2-(2-Ethoxyphenyl)-8-n-propylpyrido[3,2-d]pyrimidin-4(3H)-one
A mixture of 3-(2-ethoxybenzoylamino)-4-n-propylpridine-2-carboxamide (Preparation 7; 1.52 g, 0.0046 mol) and anhydrous zinc chloride (1.88 g, 0.014 mol) was heated at 210° C. for 0.25 hour. The cool mixture was dissolved in methanol (20 ml) and this solution poured into an aqueous solution of disodium ethylenediamine tetraacetic acid (10.3 g in 200 ml water). The resulting mixture was basified with saturated aqueous sodium carbonate solution (20 ml), then extracted with dichloromethane (4×60 ml). The combined organic extracts were dried (MgSO4) and evaporated under vacuum, then the residue crystallised from ethyl acetate to give the title compound as a white solid (0.92 g, 65%), m.p. 134°-137° C. Found: C,69.69; H,6.27; N,13.54. C18H19N3O2 requires C,69.88; H,6.19; N,13.58%.

reactant | 3-(2-ethoxybenzoylamino)-4-n-propylpridine-2-carboxamide | 0.0046 mol, 1.52 g | C(C)OC1=C(C(=O)NC=2C(=NC=CC2CCC)C(=O)N)C=CC=C1 | C18H21N3O3
reactant | disodium ethylenediamine tetraacetic acid | 200 ml, 10.3 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O.[Na].[Na]
reactant | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | zinc chloride | 0.014 mol, 1.88 g | [Cl-].[Zn+2].[Cl-]
product | 2-(2-Ethoxyphenyl)-8-n-propylpyrido[3,2-d]pyrimidin-4(3H)-one | 0.92 g, 65% | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=CC=N2)CCC)=O | C18H19N3O2
